US05977163
The sodium salt of DTPA-paclitaxel was also obtained by adding a solution of DTPA-paclitaxel in ethanol into an equivalent amount of 0.05 M NaHCO3, followed by lyophilizing to yield a water-soluble solid powder (solubility>20 mg equivalent paclitaxel/ml).

reactant | DTPA paclitaxel | C(CN(CC(=O)O)CC(=O)O)N(CCN(CC(=O)O)CC(=O)O)CC(=O)O.CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C
reactant | NaHCO3 | 0.05 M | C(=O)(O)[O-].[Na+]
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | paclitaxel | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H51NO14
